US07745641B2
In a similar manner to Step 2 of Example 6, 4,5-dichloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (115 mg, 0.258 mmol) was dissolved in acetonitrile (8.1 mL), and the solution was treated with 1-(2-hydroxyethyl)piperazine (134 mg, 1.03 mmol), acetic acid (0.295 mL, 5.16 mmol) and sodium triacetoxyborohydride (191 mg, 0.903 mmol). The reaction mixture was added with 1 mol/L hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with sodium carbonate and saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 4,5-dichloro-7-{1-(tert-butoxycarbonyl)-5-[4-(2-hydroxyethyl)pyperazin-1-ylmethyl]indol-2-yl}isoindolinone (136 mg, yield 94%).

reactant | 4,5-dichloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.258 mmol, 115 mg | ClC1=C2CNC(C2=C(C=C1Cl)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H18Cl2N2O4
reactant | 1-(2-hydroxyethyl)piperazine | 1.03 mmol, 134 mg | OCCN1CCNCC1 | C6H14N2O
reactant | acetic acid | 5.16 mmol, 0.295 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.903 mmol, 191 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | acetonitrile | 8.1 mL | C(C)#N | C2H3N
product | 4,5-dichloro-7-{1-(tert-butoxycarbonyl)-5-[4-(2-hydroxyethyl)pyperazin-1-ylmethyl]indol-2-yl}isoindolinone | 136 mg, yield 94% | ClC1=C2CNC(C2=C(C=C1Cl)C=1N(C2=CC=C(C=C2C1)CN1CCN(CC1)CCO)C(=O)OC(C)(C)C)=O | C28H32Cl2N4O4
